US06703347B2
A mixture of methyl 2-(2-heptafluoropropylbenzoxazol-5-yl)propionate (11.6 g, 0.0311 mol), hexamethyldisilane (6.81 g, 0.047 mol) and iodine (11.85 g, 0.047 mol) was stirred in refluxing toluene (110 ml) for 6 hours. The mixture was cooled to room temperature, diluted with ethyl acetate and washed sequentially with water, saturated aqueous sodium thiosulfate solution and brine. The organic phase was dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica gel, eluting initially with dichloromethane and then with ethyl acetate:dichloromethane 1:4, to give 2-(2-heptafluoropropylbenzoxazol-5-yl)propionic acid (6.3 g).

reactant | methyl 2-(2-heptafluoropropylbenzoxazol-5-yl)propionate | 0.0311 mol, 11.6 g | FC(C(C=1OC2=C(N1)C=C(C=C2)C(C(=O)OC)C)(F)F)(C(F)(F)F)F | C14H10F7NO3
reactant | hexamethyldisilane | 0.047 mol, 6.81 g | C[Si]([Si](C)(C)C)(C)C | C6H18Si2
reactant | iodine | 0.047 mol, 11.85 g | II | I2
reactant | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-heptafluoropropylbenzoxazol-5-yl)propionic acid | 6.3 g | FC(C(C=1OC2=C(N1)C=C(C=C2)C(C(=O)O)C)(F)F)(C(F)(F)F)F | C13H8F7NO3
